US06177440B1
A solution of the 9-[(2-methylphenyl)methyl]-4-hydroxy-5-carbomethoxy carbazole (260 mg, 0.75 mM) in 10 mL THF and 30 mL concentrated aqueous ammonium hydroxide was sonicated for 5 hours at 40-50° C. The mixture was diluted with ethyl acetate and acidified to pH 1 with 5 N HCl. The aqueous layer was extracted three times with ethyl acetate. The combined organic extracts were washed with H2O and saturated brine, dried over magnesium sulfate, filtered, and concentrated. The residue was purified by column chromatography on silica gel (elution with gradient hexanes/ethyl acetate) to afford 90 mg (36%) of the 9-[(2-methylphenyl)methyl]-4-hydroxy-5-carbamoyl carbazole as a tan solid. 1H NMR (DMSO-d6) δ 10.5 (s, 1H), 8.8 (br s, 1H), 8.4 (br s, 1H), 7.7 (m, 1H), 7.5 (m, 2H), 7.3 (m, 2H), 7.1 (t, 1H, J=8 Hz), 6.95 (d, 1H, J=8 Hz), 6.85 (t, 1H, J=8 Hz), 6.6 (d, 1H, J=8 Hz), 5.95 (d, 1H, J=8 Hz), 5.7 (s, 2H), and 2.5 (s, 3H). IR (KBr, cm−1) 3451, 3191, 1627, 1600, 1584, 1562, 1435, 1329, 1322, 1263, and 774. MS (ES) m/e 329, 331.

reactant | 9-[(2-methylphenyl)methyl]-4-hydroxy-5-carbomethoxy carbazole | 0.75 mM, 260 mg | CC1=C(C=CC=C1)CN1C2=CC=CC(=C2C=2C(=CC=CC12)O)C(=O)OC | C22H19NO3
reactant | HCl | 5 N | Cl | ClH
reactant | ammonium hydroxide | 30 mL | [OH-].[NH4+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9-[(2-methylphenyl)methyl]-4-hydroxy-5-carbamoyl carbazole | 90 mg, 36% | CC1=C(C=CC=C1)CN1C2=CC=CC(=C2C=2C(=CC=CC12)O)C(N)=O | C21H18N2O2
